US07919519B2
To a solution of 4-benzylphenol (10.0 g, 54.3 mmol) in 300 mL AcOH at ambient temperature was added slowly dropwise a solution of nitric acid, red fuming (2.28 mL, 54.3 mmol) in 100 mL AcOH over 1-2 h. The reaction was allowed to stir for 3 h, poured onto ice, and the resulting solid was collected by filtration, rinsing with water to give 4-benzyl-2-nitrophenol as a yellow solid. MS (ESI) m/z: Calculated: 229.1; Observed: 227.8 (M++1).

reactant | 4-benzylphenol | 54.3 mmol, 10.0 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 300 mL | CC(=O)O | C2H4O2
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 4-benzyl-2-nitrophenol | C(C1=CC=CC=C1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C13H11NO3
